US20010018525A1
5-bromo-6-(2-hydroxyethoxy)-N-methyl-N-(8-phenyloctyl)[1,1′-biphenyl]-3-carboxamide was prepared as a colorless oil (0.200 g, 56%) from 3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester and N-methyl-N-(8-phenyloctyl)amine using a procedure similar to step 2 of Example 175. 1H NMR (CDCl3) δ7.87-7.54 (m, 5H); 7.38-7.12 (m, 6H); 3.65 (m, 4H); 3.50 and 3.03 (2bt, 2H); 3.03 (2s, 3H); 2.58 (m, 2H); 1.98 (bs, 1H); 1.60 (m, 4H); 1.40-1.22 (m, 8H).

reactant | 3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)Br)=O | C18H16BrF3O4
reactant | N-methyl-N-(8-phenyloctyl)amine | CNCCCCCCCCC1=CC=CC=C1 | C15H25N
product | 5-bromo-6-(2-hydroxyethoxy)-N-methyl-N-(8-phenyloctyl)[1,1′-biphenyl]-3-carboxamide | BrC=1C=C(C=C(C1OCCO)C1=CC=CC=C1)C(=O)N(CCCCCCCCC1=CC=CC=C1)C | C30H36BrNO3
